US07094908B2
Methyl 3-(5-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.66 g, 47%) in the same manner as described in the above example 5 (1) from methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.80 g, 5.07 mmol) and 4-fluorophthalic anhydride (0.80 g, 5.07 mmol), and the obtained product was identified with the following NMR data.

reactant | methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 5.07 mmol, 0.80 g | NCC(C(=O)OC)C1(OCCO1)C | C8H15NO4
reactant | 4-fluorophthalic anhydride | 5.07 mmol, 0.80 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
product | Methyl 3-(5-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | FC=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C16H16FNO6
